US07557114B2
(b) 5-Iodo-6-trifluoromethyl-isoindole-1,3-dione
Prepared in analogy to Example A15(b) from 4-iodo-5-trifluoromethyl-phthalic acid and urea. Brown solid. MS (m/e): 339.9 ([M−H]−, 100%)

reactant | 4-iodo-5-trifluoromethyl-phthalic acid | IC=1C=C(C(C(=O)O)=CC1C(F)(F)F)C(=O)O | C9H4F3IO4
reactant | urea | NC(=O)N | CH4N2O
product | 5-Iodo-6-trifluoromethyl-isoindole-1,3-dione | IC=1C=C2C(NC(C2=CC1C(F)(F)F)=O)=O | C9H3F3INO2
